* Z:\home\tanita\Documentos\Proyecto balanceadora\Documentacion\Sim\Banco medicion.asc
R1 V2 V1 15k
L1 N001 0 0.1
Vac V1 0 SINE(0 6 1k 0 0 0 5)
R2 V2 N001 2k
.tran 0 5m 0
.backanno
.end
